### PR TITLE
[ new ] Levenshtein distance

### LINKED ISSUE #3042: Marking code as <unstable> ?
I think it would be good to get a feature (in Agda itself) where we can declare code to be 'unstable', meaning that its location, name and API can change without warning from version to version.

Example: [code for Levenshtein distance](https://github.com/agda/agda-stdlib/pull/3015#discussion_r3486228095_) where there is no natural home (yet) for some code, but it can't be marked private because it is used (internally) in multiple modules.

Basically there is no way for us to distinguish between "internal API" and "external API". In this case, the code should become 'external', eventually. But right now, it should be treated (by users) as if it does not exist.

But before we make a feature request, we need to make sure we agree on the feature! 

[Explicitly pinging @gallais and @Taneb as author and commentor on the example that gave rise to this idea.]

### PR DESCRIPTION
**Pull request by gallais**
Sorry, it is a little bit of a code dump.

This is a generalisation of the coursework I set this year for our 4th years.
I have added `Text.Distance.Levenshtein` to show how the setup can be
used to compute the Levenshtein distance between two strings both in a
case sensitive and case insensitive manner.

Some things should be moved around but I am not exactly sure what to
call them and where to put them.
E.g. the case insensitive relation on characters and its properties should
probably go in the `Char` hierarchy (what name for the relation?).
`Min3` should probably also go somewhere else but I don't know where.

I have introduced `Data.List.Relation.Unary.Split` but it could just as well
be understood as a data structure `Data.List.Split` together with its own
relation hierarchy containing the quantifier relation in
`Data.List.Relation.Split.Relation.Unary.All`.

### CODE REVIEW

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda [hunk 1]
```diff
@@ -0,0 +1,199 @@
...
+
+record Dist (xs ys : List A) (cost : ℕ) : Set (c ⊔ ℓ) where
+  constructor _,_
+  field
+    edit : Edit xs ys cost
+    mini : ∀ cost' → Edit xs ys cost' → cost ≤ cost'
+open Dist public
+
+dist : Dist xs ys k → ℕ
+dist {k = k} _ = k
```
Comment (jamesmckinna) [inline src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda]: Weird (of me) to home in on this item, but surprised that `dist` isn't simply given as a manifest field definition...?

```suggestion
record Dist (xs ys : List A) (cost : ℕ) : Set (c ⊔ ℓ) where
  constructor _,_
  field
    edit : Edit xs ys cost
    mini : ∀ cost' → Edit xs ys cost' → cost ≤ cost'
  dist = cost
open Dist public
```

at which point, some reconsideration of the names might be in order?

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Calc/DecPropositional.agda [hunk 2]
```diff
@@ -0,0 +1,26 @@
...
+------------------------------------------------------------------------
+
+{-# OPTIONS --cubical-compatible --safe #-}
+
+open import Relation.Binary.Definitions using (DecidableEquality)
+
+module Data.List.Relation.Binary.Distance.Levenshtein.Calc.DecPropositional
+  {a} {A : Set a} (_≡?_ : DecidableEquality A) where
+
+open import Data.List.Base
```
Comment (JacquesCarette) [inline src/Data/List/Relation/Binary/Distance/Levenshtein/Calc/DecPropositional.agda:14]: I don't immediately see any uses of `Data.List.Base` in the rest of this file?

File: src/Text/Distance/Levenshtein.agda [hunk 3]
```diff
@@ -0,0 +1,80 @@
...
+
+open CaseSensitive using (_≈[_]_; caseSensitive) public
+
+
+module CaseInsensitive where
+
+  open import Relation.Binary.Bundles using (Setoid; DecSetoid)
+  import Relation.Binary.Construct.On as On
+
+  -- should this go in Data.Char?
```
Comment (JacquesCarette) [inline src/Text/Distance/Levenshtein.agda]: Yes, having this and the next in `Data.Char` is probably better than "buried" here.

File: src/Data/List/Relation/Unary/Split.agda [hunk 4]
```diff
@@ -0,0 +1,138 @@
...
+    P : Pred A p
+
+------------------------------------------------------------------------
+-- Basic definition
+
+infix 1 _||_
+data Split {A : Set a} : Pred (List> A) a where
+  _||_ : (sx : List< A) → -- things to the left of the position
+         (xs : List> A) → -- things to the right of the position
+         Split (sx <>> xs) -- if we put things to the left & to the right side by side,
```
Comment (JacquesCarette) [inline src/Data/List/Relation/Unary/Split.agda:42]: Isn't this green slime? Should this be forded? [More of a discussion point; things sure would be less pretty if it were forded.]

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Edit/Setoid.agda [hunk 5]
```diff
@@ -0,0 +1,101 @@
...
+-- The relation is sub-additive
+compose : Edit xs ys k → Edit ys zs l →
+  ∃ λ m → Edit xs zs m × m ≤ k + l
+compose = Het.compose S.trans
+
+
+------------------------------------------------------------------------
+-- But (provided that A is inhabited) it is not a distance
+
+-- These definitions surely need to go somewhere else
```
Comment (JacquesCarette) [inline src/Data/List/Relation/Binary/Distance/Levenshtein/Edit/Setoid.agda]: `Function.Metric.Definitions` ?

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Edit/Propositional.agda [hunk 6]
```diff
@@ -0,0 +1,44 @@
+------------------------------------------------------------------------
+-- The Agda standard library
+--
+-- Levenshtein distance: the Edit relation and its properties
+------------------------------------------------------------------------
+
+{-# OPTIONS --cubical-compatible --safe #-}
```
Comment (JacquesCarette) [inline src/Data/List/Relation/Binary/Distance/Levenshtein/Edit/Propositional.agda]: all need to change to `--without-K` !

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Edit/Heterogeneous.agda [hunk 7]
```diff
@@ -0,0 +1,131 @@
...
+  symmetric (swap edit)     = swap (symmetric edit)
+
+-- The relation is sub-additive
+module _ (RST-trans : Trans R S T) where
+
+  compose : Edit R xs ys k → Edit S ys zs l →
+    ∃ λ m → Edit T xs zs m × m ≤ k + l
+  compose done done = 0 , done , z≤n
+  compose dlm (delR dmr) =
+    let (m , dlr , m≤) = compose dlm dmr in
```
Comment (JacquesCarette) [inline src/Data/List/Relation/Binary/Distance/Levenshtein/Edit/Heterogeneous.agda]: irrefutable `with` instead of `let` since the latter inlines?

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda [hunk 8]
```diff
@@ -0,0 +1,199 @@
...
+-- That is due to the fact it is not enforced to be minimal.
+--
+-- We can define Dist as the minimal Edit and this time the relation
+-- will be well behaved.
+
+record Dist (xs ys : List A) (cost : ℕ) : Set (c ⊔ ℓ) where
+  constructor _,_
+  field
+    edit : Edit xs ys cost
+    mini : ∀ cost' → Edit xs ys cost' → cost ≤ cost'
```
Comment (JacquesCarette) [inline src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda]: `minimal` rather than `mini`? I think `mini` is too prone to confusion.

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda (hunk 1 above)
Comment (JacquesCarette) [reply src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda]: would it be useful to also define `source` and `target` extractors?

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda [hunk 9]
```diff
@@ -0,0 +1,199 @@
...
+edit reflexive = Edit.reflexive
+mini reflexive = λ _ _ → z≤n
+
+symmetric : Dist xs ys k → Dist ys xs k
+edit (symmetric (d , m)) = Edit.symmetric d
+mini (symmetric (d , m)) = λ c d′ → m c (Edit.symmetric d′)
+
+-- The relation is indeed unique
+unique : Unique {A = List A} Dist
+unique _ _ _ _ (dk , mk) (dl , ml) = ≤-antisym (mk _ dl) (ml _ dk)
```
Comment (JacquesCarette) [inline src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda:87]: Sure makes you wonder if `unique`'s first 4 arguments (and `triangle`'s even more below) should be implicit!

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda [hunk 10]
```diff
@@ -0,0 +1,199 @@
...
+
+-- And it respects the triangle inequality
+triangle : Triangle {A = List A} Dist
+triangle _ _ _ _ _ _ (dlm , _) (dmr , _) (dlr , mlr)
+  = let (m , dlr′ , m≤) = Edit.compose dlm dmr in
+  ≤-trans (mlr m dlr′) m≤
+
+
+-- This should surely go somewhere else
```
Comment (JacquesCarette) [inline src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda]: `Data.Nat.Relation.Ternary`? `Data.Nat.Relations` ?

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda [hunk 11]
```diff
@@ -0,0 +1,199 @@
...
+min3 k l m with first {k} {l} {m} | second {k} {l} {m} | third {k} {l} {m}
+... | f | s | t with k <ᵇ l
+min3 k l m | f | s | t | false with l <ᵇ m
+... | true  = s refl
+... | false = t refl
+min3 k l m | f | s | t | true with k <ᵇ m
+... | true = f refl
+... | false = t refl
+
+m⊓′n⊓′o≤m : ∀ m n o → m ⊓′ n ⊓′ o ≤ m
```
Comment (JacquesCarette) [inline src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda]: This definitely belongs in `Data.Nat.Properties` (same with the next 2)

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda [hunk 12]
```diff
@@ -0,0 +1,199 @@
...
+m⊓′n⊓′o≤o : ∀ m n o → m ⊓′ n ⊓′ o ≤ o
+m⊓′n⊓′o≤o m n o = begin
+  m ⊓′ n ⊓′ o ≡⟨ ⊓≡⊓′ (m ⊓′ n) o ⟨
+  m ⊓′ n ⊓ o  ≤⟨ m⊓n≤n (m ⊓′ n) o ⟩
+  o           ∎
+  where open ≤-Reasoning
+
+
+------------------------------------------------------------------------
+-- Known distances
```
Comment (JacquesCarette) [inline src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda:96]: Do these perhaps belong in `Data.List.Relation.Binary.Distance.Levenshtein.Dist.Setoid.Properties` ? (Would that be a depth record?)

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
Nice addition. Some questions (mostly), a couple of suggestions and a few minor changes.

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda (hunk 9 above)
Comment (gallais) [reply src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda:87]: I kept switching back and forth because when giving the counter examples in the
Edit file it sure is convenient to be able to talk about the extremities of the segments
you are measuring.

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Edit/Setoid.agda (hunk 5 above)
Comment (gallais) [reply src/Data/List/Relation/Binary/Distance/Levenshtein/Edit/Setoid.agda]: This is a bit tricky because these use a relational formulation of distances whereas
the stuff in `Function.Metric.Definitions` is about function (e.g. it already has the
triangle inequality but defined using a function `d`).

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda (hunk 1 above)
Comment (gallais) [reply src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda]: Good catch; I've added all three

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda (hunk 9 above)
Comment (JacquesCarette) [reply src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda:87]: I'll consider this as "Guillaume thought about it, and decided to keep as is."

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Edit/Setoid.agda (hunk 5 above)
Comment (JacquesCarette) [reply src/Data/List/Relation/Binary/Distance/Levenshtein/Edit/Setoid.agda]: Right. So I think the correct resolution is 1) leave this here for this PR (but maybe make them all private, so they don't get exported?), and 2) open an issue about needing a relational formulation of distances with a pointer to this PR.

Comment (Taneb) [reply src/Data/List/Relation/Binary/Distance/Levenshtein/Edit/Setoid.agda]: This puts me in mind of Russel O'Connor's definition of a metric space in terms of closed balls. But this is rather in terms of spheres?

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda (hunk 11 above)
Comment (gallais) [reply src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda]: I have vastly generalised these and moved them to `Data.Nat.ListAction(.Properties)`

File: src/Data/List/Relation/Unary/Split.agda (hunk 4 above)
Comment (gallais) [reply src/Data/List/Relation/Unary/Split.agda:42]: This is meant to be a view so I think it's fine to have a computation in the return index.

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Edit/Setoid.agda (hunk 5 above)
Comment (gallais) [reply src/Data/List/Relation/Binary/Distance/Levenshtein/Edit/Setoid.agda]: I don't think I can make them `private` as I am using them in `Dist`.

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda (hunk 12 above)
Comment (gallais) [reply src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda:96]: It depends whether you are seeing these as properties or something more akin
to smart constructors. I guess I would argue properties should be reserved for
e.g. stability of the distance under a setoid map.

File: src/Data/List/Relation/Unary/Split.agda (hunk 4 above)
Comment (JacquesCarette) [reply src/Data/List/Relation/Unary/Split.agda:42]: You're probably right that it is fine for views.

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Edit/Setoid.agda (hunk 5 above)
Comment (JacquesCarette) [reply src/Data/List/Relation/Binary/Distance/Levenshtein/Edit/Setoid.agda]: Sigh. Let us at least get that issue, so this can be cleaned up later!

Comment (JacquesCarette) [reply src/Data/List/Relation/Binary/Distance/Levenshtein/Edit/Setoid.agda]: But also see #3042

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda (hunk 12 above)
Comment (JacquesCarette) [reply src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda:96]: I just meant the 3 lemmas on lub and less-than-or-equal. If we start seeing the proof-carrying data-structures like `_≤_` as "just data" then sure, building them can become smart constructors.

But I'm not sure that's good. I'm a big fan of 'evidence' and, strictly speaking, in Agda it is just data like anything else, but I think seeing it that way might make Agda even harder for outsiders to understand.

**Review by JacquesCarette — APPROVED** [review]
I think I'm happy now.

File: src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda (hunk 12 above)
Comment (gallais) [reply src/Data/List/Relation/Binary/Distance/Levenshtein/Dist/Setoid.agda:96]: Oh I see; these are gone now that I have introduced `Data.Nat.ListAction.minimum` and its properties.

File: src/Data/List/Membership/Setoid/Properties.agda [hunk 13]
```diff
@@ -488,6 +488,23 @@ module _ (S : Setoid c ℓ) {_•_ : Op₂ (Carrier S)} where
...
+
+  foldl-selective : Selective _≈_ _•_ → ∀ e xs →
+                    (foldl _•_ e xs ≈ e) ⊎ (foldl _•_ e xs ∈ xs)
+  foldl-selective •-sel i [] = inj₁ refl
+  foldl-selective •-sel i (x ∷ xs) with foldl-selective •-sel (i • x) xs
+  ... | inj₂ f∈xs = inj₂ (there f∈xs)
+  ... | inj₁ f≈i•x with •-sel i x
+  ...   | inj₁ i•x≈i = inj₁ (trans f≈i•x i•x≈i)
+  ...   | inj₂ i•x≈x = inj₂ (here (trans f≈i•x i•x≈x))
+
```
Comment (jamesmckinna) [inline src/Data/List/Membership/Setoid/Properties.agda:507]: Refactor using `Sum.[_,_]′` and/or `Sum.map`? ('`with` considered harmful'... sometimes)
```suggestion
  foldl-selective •-sel i (x ∷ xs) =
    [ lemma , inj₂ ∘ there ]′ $ foldl-selective •-sel (i • x) xs
    where
    lemma : _
    lemma = λ f≈i•x → Sum.map (trans f≈i•x) (here ∘ trans f≈i•x) $ •-sel i x
```

Comment (gallais) [reply src/Data/List/Membership/Setoid/Properties.agda:507]: I would suggest doing that in a separate PR; this is cargo-culting the style used in the
existing `foldr-selective` function.

Comment (jamesmckinna) [reply src/Data/List/Membership/Setoid/Properties.agda:507]: That's fine by me... except for non-denoting 'this' : your code or mine?

Comment (gallais) [reply src/Data/List/Membership/Setoid/Properties.agda:507]: My code is cargo-culting the existing `foldr-selective`

**Review by JacquesCarette — APPROVED** [review]

**Review by jamesmckinna — APPROVED** [review]
Looks very good indeed to me, and happy for any refactoring to happen downstream, along with any clearing up of the (tricky) decisions regarding the `INTERNAL` modules.
